US07169780B2
Step 4: Dimethyl-2-{[(amino-{(2S,4R)-1-[(benzyloxy)carbonyl]-4-methoxypyrrolidin-2-yl}methylidene)amino]oxy}but-2-enedioate
To benzyl-(2S,4R)-2-[amino(hydroxyimino)methyl]-4methoxypyrrolidine-1-carboxylate, dissolved in chloroform, dimethyl acetylendicarboxylate (1.1 eq.) was added. The mixture was refluxed for 1 hour and left stirring at 40° C. overnight. The chloroform was removed in vacuo and the crude product purified by flash chromatography on silica gel (eluent ethyl acetate:petroleum ether=40:60). Two isomers were present in ratio 7:3.

reactant | benzyl-(2S,4R)-2-[amino(hydroxyimino)methyl]-4methoxypyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OC)C(=NO)N | C14H19N3O4
reactant | dimethyl acetylendicarboxylate | 1.1 eq. | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Dimethyl-2-{[(amino-{(2S,4R)-1-[(benzyloxy)carbonyl]-4-methoxypyrrolidin-2-yl}methylidene)amino]oxy}but-2-enedioate | COC(C(=CC(=O)OC)ON=C([C@H]1N(C[C@@H](C1)OC)C(=O)OCC1=CC=CC=C1)N)=O | C20H25N3O8
